US08389524B2
(c) 5-Fluoro-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde
A solution of 6-bromo-5-fluoro-2,3-dihydro-1,4-benzodioxin (146 mg, 0.627 mmol) in THF (5 ml) at −78° C. was treated with n-BuLi (0.551 ml, 1.378 mmol) under a nitrogen atmosphere and stirred at −78° C. for 15 min before treatment with a solution of DMF (0.243 ml, 3.13 mmol) in THF) (2.00 ml). The reaction was stirred for 10 min at −78° C. and then the reaction was allowed warm to rt over 10 min and stirred at rt for 0.5 h. Reaction was treated with 2M HCl (20 ml) and extracted with ethyl acetate (3×100 ml). The organic extracts were evaporated, dried (MgSO4), filtered, evaporated, chromatographed (0-100% EtOAC:Cyclohexane) to give product as a white solid (25 mg, 22%).

reactant | 6-bromo-5-fluoro-2,3-dihydro-1,4-benzodioxin | 0.627 mmol, 146 mg | BrC1=C(C2=C(OCCO2)C=C1)F | C8H6BrFO2
reactant | n-BuLi | 1.378 mmol, 0.551 ml | [Li]CCCC
reactant | DMF | 3.13 mmol, 0.243 ml | CN(C)C=O | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-Fluoro-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde | 25 mg, 22% | FC1=C(C=CC=2OCCOC21)C=O | C9H7FO3
